US07279481B2
2-(3-iodophenyl)ethyl methanesulfonate
Methanesulfonyl chloride (1.5 mL, 1.2 eq.) was added dropwise to a stirred solution of 2-(3-iodophenyl)ethanol (3.6 g) in dichloromethane (100 mL) and diisopropylethylamine (3.8 mL, 1.5 equiv.) at 0° C. The solution was warmed to room temperature and stirred for 18 h. The reaction mixture was diluted with aqueous ammonium chloride solution and extracted with dichloromethane. The organic layers were combined, washed with aqueous sodium hydrogencarbonate solution, brine, dried over sodium sulfate and concentrated under reduced pressure. The crude was purified using column chromatography (SiO2 cartridge) using DCM-cyclohexane (70:30) to afford the title compound (3.2 g, 45% yield).

reactant | Methanesulfonyl chloride | 1.5 mL, 1.2 eq. | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(3-iodophenyl)ethanol | 3.6 g | IC=1C=C(C=CC1)CCO | C8H9IO
reactant | diisopropylethylamine | 3.8 mL, 1.5 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | ammonium chloride | [Cl-].[NH4+]
product | 2-(3-iodophenyl)ethyl methanesulfonate | 3.2 g, 45% yield | CS(=O)(=O)OCCC1=CC(=CC=C1)I | C9H11IO3S
